US06900231B2
15. 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}acetic Acid (Dalcanale, E., et al. J. Org. Chem., 51:567 (1986)).
A solution of sodium chlorite (692 mg, 6.11 mmol) in H2O (6.1 mL) was added over a period of 30 minutes to a stirred mixture of 2{-3-[(2,2-difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}ethanal (1.43 g, 4.37 mmol), as prepared in the preceding step, in DMSO (4.5 mL) and of NaH2PO4 (141 mg, 1.18 mmol) in H2O (1.7 mL). After the addition, the mixture was stirred at ambient temperature overnight, acidified with 10 M HCl to pH 1, and extracted with DCM (3 times). The extracts were combined, washed with H2O and brine, dried over Na2SO4, and concentrated in vacuo. The resulting residue was flash chromatographed on silica gel eluting with MeOH/DCM (0, 2, and 4%) to give the title compound (0.77 g, 51% yield) as a pale brown solid. 1H-NMR (400 MHz, CD3OD) δ 7.53-7.51 (m, 2H), 7.44-7.41 (m, 3H), 6.93 (dd, J=8.9, 1.8 Hz, 1H), 6.62 (t, J=9.1 Hz, 1H), 3.80 (t, J=13.7 Hz, 2H), 3.74 (d, J=2.2 Hz, 2H). Mass spectrum (LCMS, ESI) calc'd for C16H14ClF3NO2 (M+H): 344.1. Found: 344.4.

reactant | sodium chlorite | 6.11 mmol, 692 mg | Cl(=O)[O-].[Na+]
reactant | 2{-3-[(2,2-difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}ethanal | 4.37 mmol, 1.43 g | FC(CNC=1C(=C(C(=CC1)Cl)CC=O)F)(C1=CC=CC=C1)F | C16H13ClF3NO
reactant | HCl | 10 M | Cl | ClH
solvent | H2O | 6.1 mL | O | H2O
solvent | DMSO | 4.5 mL | CS(=O)C | C2H6OS
solvent | H2O | 1.7 mL | O | H2O
product | 2-{3-[(2,2-Difluoro-2-phenylethyl)amino]-6-chloro-2-fluorophenyl}acetic Acid | 0.77 g, 51% yield | FC(CNC=1C(=C(C(=CC1)Cl)CC(=O)O)F)(C1=CC=CC=C1)F | C16H13ClF3NO2
